US07495103B2
Et3N (1.5 g, 15 mmol) and mercapto-acetic acid (1 g, 11 mmol) were added to a solution of 1-chloro-2,4-dinitrobenzene (2.26 g, 10 mmol) in 1,4-dioxane (50 mL) at room temperature. After stirring at room temperature for 5 h, H2O (100 mL) was added. The resulting suspension was extracted with ethyl acetate (100 mL×3). The ethyl acetate extract was washed with water and brine, dried over Na2SO4 and concentrated to give 2-(2,4-dinitrophenylthio)-acetic acid (2.3 g, 74%), which was used without further purification.

reactant | Et3N | 15 mmol, 1.5 g | CCN(CC)CC | C6H15N
reactant | mercapto-acetic acid | 11 mmol, 1 g | SCC(=O)O | C2H4O2S
reactant | 1-chloro-2,4-dinitrobenzene | 10 mmol, 2.26 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | H2O | 100 mL | O | H2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-(2,4-dinitrophenylthio)-acetic acid | 2.3 g, 74% | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SCC(=O)O | C8H6N2O6S
